US07691877B2
4-Amino-1-benzyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-c]pyridine-6-carboxylic acid methyl ester
1-Benzyl-4-benzylamino-2-oxo-2,3-dihydro-1H-imidazo[4,5-c]pyridine-6-carboxylic acid methyl ester (0.02 g) was taken up in sulfuric acid (2 mL), and stirred rapidly for 15 mins. The reaction mixture was cooled to 0C, and water was added, which resulted in a precipitate which was filtered and dried in vacuo to give the title compound (10 mg) as a white solid.

reactant | 1-Benzyl-4-benzylamino-2-oxo-2,3-dihydro-1H-imidazo[4,5-c]pyridine-6-carboxylic acid methyl ester | 0.02 g | COC(=O)C1=CC2=C(C(=N1)NCC1=CC=CC=C1)NC(N2CC2=CC=CC=C2)=O | C22H20N4O3
reactant | water | O | H2O
solvent | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
product | 4-Amino-1-benzyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-c]pyridine-6-carboxylic acid methyl ester | 10 mg | COC(=O)C1=CC2=C(C(=N1)N)NC(N2CC2=CC=CC=C2)=O | C15H14N4O3
